* Behavioral Ring Oscillator Benchmark

Vdd vdd 0 DC 5

Bosc out 0 V = 2.5 + 2.5*sin(2*3.14159*10Meg*time)
Rload out 0 10k
Cload out 0 1p

.tran 0.1n 2u

.control
set noaskquit
save all
run
.endc

.end